US07846956B2
5.70 g of 5-i-propylisoxazole-3-carbaldehyde was dissolved in 82 ml of 1,4-dioxane, and 48 ml of a 0.93 M solution of methylmagnesium bromide in tetrahydrofuran was then added under ice-cooling. The mixture was stirred for 1 hour under ice-cooling. After water was added, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 5.66 g of 1-(5-i-propyl-isoxazol-3-yl)ethanol.

reactant | 5-i-propylisoxazole-3-carbaldehyde | 5.70 g | C(C)(C)C1=CC(=NO1)C=O | C7H9NO2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | water | O | H2O
solvent | 1,4-dioxane | 82 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(5-i-propyl-isoxazol-3-yl)ethanol | 5.66 g | C(C)(C)C1=CC(=NO1)C(C)O | C8H13NO2
